* C:\users\thetheos\My Documents\Université\BAC2\Q4.P_Elec\Ressources\allBlocks\multiplier.asc
XU1 0 N001 Vcc Vee N002 TL084
XU2 0 N010 Vcc Vee N011 TL084
XU3 0 N003 Vcc Vee N004 TL084
XU4 0 N005 Vcc Vee N006 TL084
R1 N001 V1 10k
R2 N010 V2 10k
R3 N003 N002 10k
R4 N003 N011 10k
D1 N010 N011 1N4148
D2 N001 N002 1N4148
D3 N004 N005 1N914
R5 N004 N003 10k
R6 N006 N005 10k
R7 N007 N006 10k
R8 N007 V1 10k
R9 N007 V2 10k
XU5 0 N007 Vcc Vee N008 TL084
R10 N008 N007 10k
V1 Vcc 0 15
V2 Vee 0 -15
V3 V1 0 SINE(5 0.5 1000)
V4 V2 0 SINE(5 0.5 1000 0 0 170)
R11 NC_01 0 100
XU6 0 N012 Vcc Vee N013 TL084
XU7 0 N015 Vcc Vee N014 TL084
R12 N015 V1 100
R13 N013 N012 10
M1 Vref N014 N015 N015 NMOS
M2 V2 N014 N012 N012 NMOS
V5 Vref 0 1
R14 N008 0 10k
C1 N009 0 16µ
R15 N009 N008 1k
.model D D
.lib C:\users\thetheos\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\thetheos\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include TL084.lib
.tran 200ms
.backanno
.end
