* C:\users\thetheos\My Documents\Université\BAC2\Q4.P_Elec\Ressources\allBlocks\multiplier.asc
XU1 0 N001 Vcc Vee N002 TL084
XU2 0 N011 Vcc Vee N012 TL084
XU3 0 N003 Vcc Vee N004 TL084
XU4 0 N005 Vcc Vee N006 TL084
R1 N001 V1 100
R2 N011 V2 100
R3 N003 N002 100
R4 N003 N012 100
D1 N011 N012 1N4148
D2 N001 N002 1N4148
D3 N004 N005 1N914
R5 N004 N003 10k
R6 N006 N005 10k
R7 N007 N009 10k
R8 N007 V1 10k
R9 N007 V2 10k
XU5 0 N007 Vcc Vee N008 TL084
R10 N008 N007 10k
V1 Vcc 0 15
V2 Vee 0 -15
V3 V1 0 SINE(5 0.5 1000)
V4 V2 0 SINE(5 0.5 1000 0 0 140)
R11 NC_01 0 100
XU6 0 N013 Vcc Vee N014 TL084
XU7 0 N016 Vcc Vee N015 TL084
R12 N016 V1 100
R13 N014 N013 10
M1 Vref N015 N016 N016 NMOS
M2 V2 N015 N013 N013 NMOS
V5 Vref 0 1
R14 N008 0 10k
C1 N010 0 16µ
R15 N010 N008 1k
.model D D
.lib C:\users\thetheos\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\thetheos\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include TL084.lib
.tran 200ms
.backanno
.end
